US06525074B2
Step C: Preparation of Methanesulfonic acid 3-{2-[1-(4-cyano-3-fluoro-phenyl)-1-(3-methyl-3H-imidazol-4-yl)-ethylcarbamoyl]-ethylcarbamoyl}-phenyl ester
A solution of 3-hydroxybenzoic acid (0.07 g, 0.51 mmol), methanesulfonyl chloride(0.15 g, 1.29 mmol), and triethylamine (0.16g, 1.54 mmol) in CH2Cl2 (3 mL) was stirred for 1 hr at 0° C. The reaction was allowed to come to room temperature and 3-amino-N-[1-(4-cyano-3-fluoro-phenyl)-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-propionamide dihydrochloride and triethylamine (0.10 g, 1.03 mmol) were added. After stirring overnight, H2O (1 mL) was added and the mixture was extracted with CH2Cl2 (3×5 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo to provide the title compound.

reactant | 3-hydroxybenzoic acid | 0.51 mmol, 0.07 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | methanesulfonyl chloride | 1.29 mmol, 0.15 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.54 mmol, 0.16g | C(C)N(CC)CC | C6H15N
reactant | 3-amino-N-[1-(4-cyano-3-fluoro-phenyl)-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-propionamide dihydrochloride | Cl.Cl.NCCC(=O)NC(C)(C=1N(C=NC1)C)C1=CC(=C(C=C1)C#N)F
reactant | triethylamine | 1.03 mmol, 0.10 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 1 mL | O | H2O
product | Methanesulfonic acid 3-{2-[1-(4-cyano-3-fluoro-phenyl)-1-(3-methyl-3H-imidazol-4-yl)-ethylcarbamoyl]-ethylcarbamoyl}-phenyl ester | C(#N)C1=C(C=C(C=C1)C(C)(C=1N(C=NC1)C)NC(=O)CCNC(=O)C=1C=C(C=CC1)OS(=O)(=O)C)F | C24H24FN5O5S
